US07253158B2
4-Chloro-N-((R)-5,5-dimethyl-2-oxo-azepan-3-yl)-N-(2-fluoro-4-hydroxymethyl-benzyl)-benzenesulfonamide
4-{[(4-Chloro-benzenesulfonyl)-((R)-5,5-dimethyl-2-oxo-azepan-3-yl)-amino]-methyl}-3-fluoro-benzoic acid (0.05 g, 0.10 mmol) was dissolved in THF (2 ml) and added dropwise to a suspension of LiAlH4 (0.04 g, 1 mmol) in THF (2 ml). After 6 h to the reaction mixture was added water (0.5 ml), 1 N NaOH (0.2 ml) and after 15 min of vigorous stirring it was filtered. The filtrate was concentrated under reduced pressure and purified using preparative RP(C18) chromatography: lyophilisate 5 mg; MS: m/e=469.1 (MH+).

reactant | 4-{[(4-Chloro-benzenesulfonyl)-((R)-5,5-dimethyl-2-oxo-azepan-3-yl)-amino]-methyl}-3-fluoro-benzoic acid | 0.10 mmol, 0.05 g | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1C(NCCC(C1)(C)C)=O)CC1=C(C=C(C(=O)O)C=C1)F | C22H24ClFN2O5S
reactant | LiAlH4 | 1 mmol, 0.04 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.5 ml | O | H2O
reactant | NaOH | 1 N, 0.2 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-Chloro-N-((R)-5,5-dimethyl-2-oxo-azepan-3-yl)-N-(2-fluoro-4-hydroxymethyl-benzyl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=C(C=C(C=C1)CO)F)[C@H]1C(NCCC(C1)(C)C)=O | C22H26ClFN2O4S
